US04203980
Preparation of 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)pyrimidine
A solution of 5.0 mg. of 4-[(4-acetylamino-2-amino-5-pyrimidyl)-methyl]-2,6-dimethoxy-α,α-dimethylbenzyl alcohol was warmed under reflux for 1 hour in 1 ml. of concentrated hydrochloric acid. After cooling, the mixture was adjusted to pH 10 with concentrated aqueous ammonia and extracted three times with 2 ml. of ethyl acetate each time. The extract was dried and evaporated. The residue yielded, after recrystallization from methanol, 3.2 mg. of 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine, having a melting point of 228°-229° C.

reactant | 4-[(4-acetylamino-2-amino-5-pyrimidyl)-methyl]-2,6-dimethoxy-α,α-dimethylbenzyl alcohol | C(C)(=O)NC1=NC(=NC=C1CC1=CC(=C(C(C)(C)O)C(=C1)OC)OC)N | C18H24N4O4
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
product | 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(=C)C)OC | C16H20N4O2
